US09315495B2
To a solution of 5-isopentyl-1H-indole-2-carbaldehyde (100 mg, 0.46 mmol) and methyl iodide (71 mg, 0.50 mmol) in 0.93 mL dimethylformamide was added potassium carbonate (71 mg, 0.51 mmol). The resulting suspension was stirred vigorously at 150° C. in a sealed vial under argon for 1 h. Solids were filtered and the liquor concentrated before being subjected to chromatography on silica gel (40% ethyl acetate in hexanes) to give 5-isopentyl-1-methyl-1H-indole-2-carbaldehyde (16 mg, 15%).

reactant | 5-isopentyl-1H-indole-2-carbaldehyde | 0.46 mmol, 100 mg | C(CC(C)C)C=1C=C2C=C(NC2=CC1)C=O | C14H17NO
reactant | methyl iodide | 0.50 mmol, 71 mg | CI | CH3I
reactant | potassium carbonate | 0.51 mmol, 71 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 0.93 mL | CN(C=O)C | C3H7NO
product | 5-isopentyl-1-methyl-1H-indole-2-carbaldehyde | 16 mg, 15% | C(CC(C)C)C=1C=C2C=C(N(C2=CC1)C)C=O | C15H19NO
